US07199120B2
To a solution of 1-[3-(2-fluoro-4-pyridinyl)pyrazolo[1,5-a]pyridin-2-yl]ethanone (580 mg, 2.27 mmol) in acetic acid (20 mL) was added bromine (0.12 mL, 2.27 mmol). After heating at 80° C. for 30 minutes, the solution was cooled to room temperature. Ethyl acetate was added to dilute the reaction mixture. The mixture was washed with water (×3), brine and dried over magnesium sulfate. Filtration and concentration, followed by recrystallization from ethyl acetate gave 2-bromo-1-[3-(2-fluoro-4-pyridinyl)pyrazolo[1,5-a]pyridin-2-yl]ethanone (478 mg, 64%) as a yellow solid. 1H NMR (CDCl3): δ 8.51 (d, 1H), 8.27 (d, 1H), 7.65 (d, 1H), 7.33 (m, 2H), 7.10 (s, 1H), 7.06 (t, 1H), 4.76 (s, 2H). MS m/334 (M+1).

reactant | 1-[3-(2-fluoro-4-pyridinyl)pyrazolo[1,5-a]pyridin-2-yl]ethanone | 2.27 mmol, 580 mg | FC1=NC=CC(=C1)C=1C(=NN2C1C=CC=C2)C(C)=O | C14H10FN3O
reactant | bromine | 2.27 mmol, 0.12 mL | BrBr | Br2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 2-bromo-1-[3-(2-fluoro-4-pyridinyl)pyrazolo[1,5-a]pyridin-2-yl]ethanone | 478 mg, 64% | BrCC(=O)C1=NN2C(C=CC=C2)=C1C1=CC(=NC=C1)F | C14H9BrFN3O
